US08536203B2
5-(3,4-dimethoxy-5-nitrophenyl)-3-(2-(trifluoromethyl)pyridin-3-yl)-1,2,4-triazine (1.221 g, 3 mmol) was taken up in dichloromethane (25 mL). The yellowish solution was cooled to −78° C. under argon and boron tribromide (2.55 mL, 27 mmol) was added dropwise. The red reaction mixture was allowed to warm to room temperature and stirred for 18 hours. It was then carefully poured into ice-water (100 mL) and stirred for 1 hour. The yellow precipitate was filtered off, washed with water and dried over P2O5 under vacuum. The solid was recrystallised from dichloromethane-ethanol to give 3-nitro-5-(3-(2-(trifluoromethyl)pyridin-3-yl)-1,2,4-triazin-5-yl)benzene-1,2-diol as a yellow solid, 0.807 g (71%).

reactant | 5-(3,4-dimethoxy-5-nitrophenyl)-3-(2-(trifluoromethyl)pyridin-3-yl)-1,2,4-triazine | 3 mmol, 1.221 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C=1N=C(N=NC1)C=1C(=NC=CC1)C(F)(F)F | C17H12F3N5O4
reactant | boron tribromide | 27 mmol, 2.55 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-nitro-5-(3-(2-(trifluoromethyl)pyridin-3-yl)-1,2,4-triazin-5-yl)benzene-1,2-diol | [N+](=O)([O-])C1=C(C(=CC(=C1)C=1N=C(N=NC1)C=1C(=NC=CC1)C(F)(F)F)O)O | C15H8F3N5O4
